* G:\My Drive\Graduate Reserach\LTSpice\SC Fibb\AURA\SC_FIB_AURA_series12_alt.asc
M1 N004 NC_01 N012 N012 NMOS
M2 N012 NC_02 0 0 NMOS
M3 N003 NC_03 N004 N004 NMOS
V1 N005 N017 12
V2 N013 0 4
R1 N004 N013 5m
R3 N005 N006 5m
R4 N017 N018 5m
L1 N006 N001 100n
L2 N018 0 100n
C1 N012 N011 5µ
C5 N004 N014 2µ
R5 N011 N003 3m
R9 N014 0 2m
M4 N003 NC_04 N010 N010 NMOS
M5 N010 NC_05 N016 N016 NMOS
M6 N002 NC_06 N003 N003 NMOS
C2 N010 N009 5µ
R2 N009 N002 3m
M7 N002 NC_07 N008 N008 NMOS
M8 N008 NC_08 N015 N015 NMOS
M9 N001 NC_09 N002 N002 NMOS
C3 N008 N007 5µ
R6 N007 N001 3m
M11 0 NC_10 N015 N015 NMOS
M10 0 NC_11 N016 N016 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
